### PR TITLE
Adding explicit zero algebras

### PR DESCRIPTION
**Pull request by djspacewhale**
Added initial work for the zero ring and zero abelian group, along with proofs of their uniqueness up to contractible type. Remaining work is refactoring for the rest of the zero algebras along the way and the final uniqueness proof by SIP.

### CODE REVIEW

**Comment by EgbertRijke** [comment]
Awesome! Thanks for contributing to agda-unimath!

File: src/group-theory/trivial-groups.lagda.md [hunk 1]
```diff
@@ -71,3 +78,26 @@ module _
...
+
+ab-0-group : Ab lzero
+ab-0-group = 0-group , is-abelian-0-group
+```
+
+### The type of trivial groups is contractible
+
+This remains to be done. It requires first classifying identity types of groups
+using the structure identity principle, shouldn't be too hard (perhaps it's
+already a lemma in the category-theory modules?) but needs to be done.
```
Comment (EgbertRijke) [inline src/group-theory/trivial-groups.lagda.md:103]: Note that the agda-unimath website is an encyclopedia of formalized mathematics, so it would be more approprate to state this in a more neutral language:

```suggestion
This remains to be formalized. Its formalization is expected to make use of the characterization of the identity type of the type of groups, which is formalized in [the category of groups](group-theory.category-of-groups.md).
```

File: src/commutative-algebra/trivial-commutative-rings.lagda.md [hunk 2]
```diff
@@ -75,3 +85,29 @@ is-contr-is-trivial-Commutative-Ring :
...
+
+is-commutative-0-Ring : is-commutative-Ring 0-ring
+is-commutative-0-Ring = λ x y → refl
+
+0-cRing : Commutative-Ring lzero
+0-cRing = 0-ring , is-commutative-0-Ring
+
+is-trivial-0-cRing : is-trivial-Commutative-Ring 0-cRing
+is-trivial-0-cRing = refl
+```
```
Comment (EgbertRijke) [inline src/commutative-algebra/trivial-commutative-rings.lagda.md:109]:
````suggestion
### The trivial ring

```agda
trivial-Ring : Ring lzero
pr1 trivial-Ring = trivial-Ab
pr1 (pr1 (pr2 trivial-Ring)) x y = star
pr2 (pr1 (pr2 trivial-Ring)) x y z = refl
pr1 (pr1 (pr2 (pr2 trivial-Ring))) = star
pr1 (pr2 (pr1 (pr2 (pr2 trivial-Ring)))) star = refl
pr2 (pr2 (pr1 (pr2 (pr2 trivial-Ring)))) star = refl
pr2 (pr2 (pr2 trivial-Ring)) = (λ a b c → refl) , (λ a b c → refl)

is-commutative-trivial-Ring : is-commutative-Ring trivial-Ring
is-commutative-trivial-Ring x y = refl

trivial-Commutative-Ring : Commutative-Ring lzero
trivial-Commutative-Ring = (trivial-Ring , is-commutative-trivial-Ring)

is-trivial-trivial-Commutative-Ring : is-trivial-Commutative-Ring trivial-Commutative-Ring
is-trivial-trivial-Commutative-Ring = refl
```
````

File: src/commutative-algebra/trivial-commutative-rings.lagda.md [hunk 3]
```diff
@@ -75,3 +85,29 @@ is-contr-is-trivial-Commutative-Ring :
...
+
+To-do: complete proof of uniqueness of the zero ring using SIP, ideally refactor
+code to do zero algebras all along the chain to prettify and streamline future
+work
```
Comment (EgbertRijke) [inline src/commutative-algebra/trivial-commutative-rings.lagda.md:113]:
```suggestion
### The type of trivial rings is contractible

To-do: complete proof of uniqueness of the zero ring using SIP, ideally refactor
code to do zero algebras all along the chain to prettify and streamline future
work
```

**Review by EgbertRijke — COMMENTED** [review]
Thanks so much for adding material about trivial rings! I made a few suggestions.

File: .gitignore [hunk 4]
```diff
@@ -430,3 +430,22 @@ SUMMARY.md
...
+# Local History for Visual Studio Code
+.history/
+
+# Built Visual Studio Code Extensions
+*.vsix
+
+### VisualStudioCode Patch ###
+# Ignore all local history of files
+.history
+.ionide
```
Comment (fredrik-bakke) [inline .gitignore:451]: Unless you're experiencing trouble with any of these files, I don't see a good reason to add these to our `.gitignore`. Note that we already have a working setup with vscode.

```suggestion
```

**Comment by fredrik-bakke** [comment]
It would be nice to have these changes merged soon, but we have suggested some changes that need to be addressed first. What is your status, @djspacewhale? If you prefer, I can take care of the finishing touches for you and merge this.

**Comment by fredrik-bakke** [comment]
Oh, it seems either one of your files is missing an import, or `is-contr-subgroup-is-trivial-Group` is called something else. Also, you will have to run our pre-commit hooks on your project to apply auto-formatting rules.

For a guide on how to set up pre-commit, see here:
- https://unimath.github.io/agda-unimath/HOWTO-INSTALL.html#contributor-setup
To learn more about what it does, see here:
- https://unimath.github.io/agda-unimath/CONTRIBUTING.html

**Comment by fredrik-bakke** [comment]
Let me know if you have any questions!

**Comment by fredrik-bakke** [comment]
Excellent! I will enable auto-merging now
